US07851473B2
(3) 2-Bromo-4-[3-(trifluoromethyl)phenyl]-1,3-thiazole
A 25% hydrogen bromide/acetic acid (35 ml) solution was added to a solution of 2-oxo-2-[3-(trifluoromethyl)phenyl]ethyl thiocyanate (3.88 g, 15.8 mmol) in acetic acid (35 ml), and the mixture was stirred at 130° C. for 2 hours and at room temperature for 1 hour. Water was poured to the reaction mixture, and the mixture was extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 2.88 g (59.1%) of the desired product as an oil.

reactant | hydrogen bromide acetic acid | 35 ml | Br.C(C)(=O)O
reactant | 2-oxo-2-[3-(trifluoromethyl)phenyl]ethyl thiocyanate | 15.8 mmol, 3.88 g | O=C(CSC#N)C1=CC(=CC=C1)C(F)(F)F | C10H6F3NOS
reactant | Water | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-[3-(trifluoromethyl)phenyl]-1,3-thiazole | 2.88 g, 59.1% | BrC=1SC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C10H5BrF3NS
